US04908384
8-Hydroxy-10-phenyl-5-decynoic Acid Hydrate (10:1)
In a dry flask under N2 was placed 200 ml of HMPA (distilled over NaH) and 24.4 g (0.218 mole) of 5-hexynoic acid, the product of 1b. The solution was stirred at 0° and was added a solution of n-BuLi in hexane (256 ml, 0.436 mole) dropwise. After 2 hours stirring, 2-phenylethyloxirane (33.9 g. 0.229 mole) was added and stirring was continued at RT for 2 days. The reaction mixture was cooled to 0° and 200 ml of H2O was added. The aqueous solution was acidified with 6N HCl and then extracted with Et2O three times. The ether solution was washed once with H2O and was extracted with aqueous NH4OH solution. The aqueous NH4OH solution was reacidified with 6N HCl and then extracted with ether. Removal of the solvent yielded the crude product. The crude product was converted to the corresponding methyl ester via reaction with MeOH in the presence a catalytic amount of BH3 ·Et2O (0.2 ml). The methyl ester was purified by flash column chromatography (Silica gel, EtOAc-petroleum ether(1:4)) and subsequently was hydrolyzed to the acid in the mixture of K2CO3 -MeOH-H2O at RT. The acid was distilled through a Kugelrohr adaptor to give the title compound, bp 190°-195°/0.01 nmmHg (pot temperature).

reactant | 5-hexynoic acid | 0.218 mole, 24.4 g | C(CCCC#C)(=O)O | C6H8O2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 0.436 mole, 256 ml | CCCCCC | C6H14
reactant | 2-phenylethyloxirane | 0.229 mole, 33.9 g | C1(=CC=CC=C1)CCC1OC1 | C10H12O
reactant | HCl | 6N | Cl | ClH
solvent | MeOH | CO | CH4O
solvent | H2O | 200 ml | O | H2O
solvent | HMPA | 200 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 8-Hydroxy-10-phenyl-5-decynoic Acid Hydrate | O.OC(CC#CCCCC(=O)O)CCC1=CC=CC=C1 | InChI=1S/C16H20O3.H2O/c17-15(10-6-1-2-7-11-16(18)19)13-12-14-8-4-3-5-9-14;/h3-5,8-9,15,17H,2,7,10-13H2,(H,18,19);1H2
